US07514583B2
1,4-bis-(3,4-methylenedioxybenzyl)piperazine (DC-0009B)
To a solution of piperazine (207 mg) in dry DMF (5 ml) under nitrogen was added sodium hydride (80% w/w in oil, 250 mg), followed by 3,4-methylenedioxybenzylchloride (0.90 g) and the mixture stirred at room temperature overnight. Aqueous NaOH (50 ml, 1M) was added slowly, then saturated NaCl solution (50 ml) and the product extracted with dichloromethane (2×100 ml). The organic layer was washed with water (2×100 ml), dried and evaporated in vacuo to give a white solid. Column chromatography eluting with increasing proportions of ether in dichloromethane gave pure DC-0009B (0.68 g, 80%) as a white powder.

reactant | piperazine | 207 mg | N1CCNCC1 | C4H10N2
reactant | sodium hydride | 250 mg | [H-].[Na+]
reactant | 3,4-methylenedioxybenzylchloride | 0.90 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | NaOH | 1M, 50 ml | [OH-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1,4-bis-(3,4-methylenedioxybenzyl)piperazine | C1OC=2C=C(CN3CCN(CC3)CC3=CC4=C(C=C3)OCO4)C=CC2O1 | C20H22N2O4
